US07056917B2
(A) Ethyl (E)-3-{8-[2-(4-isopropyl-1,3-thiazol-2-yl)ethyl]-2-morpholino-4-oxo-4H-pyrido[1,2-a]pyrimidin-3-yl}-2-methyl-2-propenoate
Under nitrogen atmosphere, triethyl 2-phosphonopropionate (155 mg, 0.65 mmol) was dissolved in tetrahydrofuran (2 ml), added with n-butyl lithium (1 M, 0.65 ml) at −78° C., and stirred at the same temperature for 20 minutes. The reaction mixture was added with a solution of 8-[2-(4-isopropyl-1,3-thiazol-2-yl)ethyl]-2-morpholino-4-oxo-4H-pyrido[1,2-a]pyrimidine-3-carbaldehyde (50 mg) dissolved in tetrahydrofuran (1 ml). The cooling bath was removed, and the reaction mixture was warmed to room temperature and stirred overnight at room temperature. The reaction mixture was added with saturated aqueous sodium hydrogencarbonate and extracted with ethyl acetate. The organic layer was dried over magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography to obtain the title compound (14 mg).

reactant | triethyl 2-phosphonopropionate | 0.65 mmol, 155 mg | CCOC(=O)C(C)P(=O)(OCC)OCC | C9H19O5P
reactant | n-butyl lithium | 1 M, 0.65 ml | C(CCC)[Li]
reactant | 8-[2-(4-isopropyl-1,3-thiazol-2-yl)ethyl]-2-morpholino-4-oxo-4H-pyrido[1,2-a]pyrimidine-3-carbaldehyde | 50 mg | C(C)(C)C=1N=C(SC1)CCC1=CC=2N(C(C(=C(N2)N2CCOCC2)C=O)=O)C=C1 | C21H24N4O3S
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | Ethyl (E)-3-{8-[2-(4-isopropyl-1,3-thiazol-2-yl)ethyl]-2-morpholino-4-oxo-4H-pyrido[1,2-a]pyrimidin-3-yl}-2-methyl-2-propenoate | 14 mg | C(C)(C)C=1N=C(SC1)CCC1=CC=2N(C(C(=C(N2)N2CCOCC2)/C=C(/C(=O)OCC)\C)=O)C=C1 | C26H32N4O4S
